Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / succinylcholine
 
Attending: ___.
 
Chief Complaint:
rash
 
Major Surgical or Invasive Procedure:
skin biopsy ___

 
History of Present Illness:
Ms. ___ is a ___ woman with hereditary coproporphyria, 
fibromyalgia, and DM2; transferred from ___ for 
derm eval of ___ days of a painful, raised, red rash over her 
trunk, arms, legs, and forehead. Rash has overall improved. 

Derm consulted, differential includes porphyria attack with 
possible vague neuro symptoms, recommended starting clobetasol 
to watch for improvement. 

Rash that started 3 days ago and began spreading so presented to 
___. An LP was performed due to chills, headache, 
neck stiffness w/o evidence of meningitis. OSH concerned for 
___ syndrome and transferred her here for further 
management. Rash started on her hands and feet and reportedly 
spread upward toward the trunk and is now on the back, arms, 
feet. Rash burns, does not itch and painful to touch. She states 
this feels a lot like her prior episode of shingles on her face, 
but has never been widespread like this. She endorses chills, 
headache, stiff neck, cough. No recent illness or travel. Denies 
fevers, vomiting, vision changes, diarrhea. About a month ago, 
had what looked to be bites, treated for scabies with prednisone 
and permethrin and finished that medication about 3 weeks prior 
to admission, otherwise no new medications or changes. No night 
sweats different then her menopause or weight loss. Pt reports a 
similar incidents due to porphyria-mostly when she is in the 
sun. Pt denies any history of a rash this severe. Pt denies 
starting any new skin products or laundry detergent. Pt reports 
that she does have a bed bug infestation in her building, but 
not in her apartment.

She is quite tired and notes that she cannot sleep in hospitals. 
did not sleep last night. Does note a dry cough which has been 
ongoing for a few weeks but denies fevers chills, chest pain, or 
sick contacts. Also notes mild headache and neck ache which have 
improved since ___.

ROS:  
Remainder of comprehensive 10 point ROS it otherwise negative.
 
Past Medical History:
DM type 2
Hereditary Coproporphyria

No significant prior surgeries
 
Social History:
___
Family History:
her mother and grandmother are suspected to have and have had 
(respectively) the coproporphyria gene. her grandmother was 
never tested and her mother she says is "in denial"
 
Physical Exam:
Admission Exam:
 Vitals: 98.3
PO 148 / 75 59 18 97% RA 
 Consitutional: tired but in NAD, lying in bed comfortably
 Eyes: EOMI, sclerae anicteric  
 ENT: no mucosal lesions, MMM, OP clear
 Cardiovasc: RRR, no MRG, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: pink blanchable palpable papules and plaques on the sun 
exposed upper and bilateral feet (although patient states feet 
are never sun exposed) with some involvement of the forehead. 
some areas of the wrists bilaterally have excoriations and what 
appear to be healed blisters or scabbed areas over papules. No 
bullae or purpuric lesions. 
 Neuro: AAOx3. CNs II-XII intact. MAEE.
 Psych: Full range of affect

Discharge Exam: 
 Vitals: 98.5
PO 141 / 79
R Sitting 62 18 97 Ra 
 Consitutional: tired but in NAD, standing, alert and conversant
 Eyes: EOMI, sclerae anicteric  
 ENT: no mucosal lesions, MMM, OP clear
 Cardiovasc: RRR, no MRG, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: pink blanchable palpable papules and plaques on the sun 
exposed upper and bilateral feet (although patient states feet 
are never sun exposed) with some involvement of the forehead. 
some areas of the wrists bilaterally have excoriations and what 
appear to be healed blisters or scabbed areas over papules. No 
bullae or purpuric lesions. 
 Neuro: AAOx3. neck is supple. CNs II-XII intact. MAEE. 
ambulating without any issues. sensation intact in all 4s
 Psych: Full range of affect
 
Pertinent Results:
___ 12:41AM URINE  HOURS-RANDOM
___ 12:41AM URINE  HOURS-RANDOM
___ 12:41AM URINE  UCG-NEGATIVE
___ 12:41AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 12:41AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 12:41AM URINE  RBC->182* WBC-12* BACTERIA-FEW 
YEAST-NONE EPI-5
___ 12:41AM URINE  AMORPH-RARE
___ 12:41AM URINE  MUCOUS-RARE
___ 10:15PM   LACTATE-1.6 K+-4.7
___ 10:00PM   GLUCOSE-135* UREA N-6 CREAT-0.6 SODIUM-138 
POTASSIUM-6.3* CHLORIDE-105 TOTAL CO2-22 ANION GAP-17
___ 10:00PM   estGFR-Using this
___ 10:00PM   ALT(SGPT)-15 AST(SGOT)-42* ALK PHOS-93 TOT 
BILI-0.4
___ 10:00PM   LIPASE-19
___ 10:00PM   ALBUMIN-4.0 CALCIUM-9.1 PHOSPHATE-4.1 
MAGNESIUM-2.0
___ 10:00PM   WBC-8.9 RBC-3.75* HGB-12.1 HCT-35.7 MCV-95 
MCH-32.3* MCHC-33.9 RDW-14.0 RDWSD-49.0*
___ 10:00PM   NEUTS-54.1 ___ MONOS-7.2 EOS-2.9 
BASOS-0.8 IM ___ AbsNeut-4.80 AbsLymp-3.08 AbsMono-0.64 
AbsEos-0.26 AbsBaso-0.07
___ 10:00PM   PLT COUNT-325
___ 10:00PM   ___ PTT-28.7 ___
___ 09:45PM CEREBROSPINAL FLUID (CSF)  PROTEIN-52* 
GLUCOSE-90
___ 09:45PM CEREBROSPINAL FLUID (CSF)  TNC-0 RBC-0 POLYS-11 
___ MACROPHAG-3

====================================================
IMAGING: 
CXR ___: 
  
FINDINGS:  
  
Increased reticular opacities are seen at the lung bases which 
may represent 
atelectasis versus a consolidation. In addition there is 
bronchiolar wall 
thickening bilaterally. No pleural effusion or pneumothorax is 
seen. The 
cardiac and mediastinal silhouettes are unremarkable. 
  
IMPRESSION:  
  
Increased reticular opacities at the lung bases and bronchiolar 
wall 
thickening bilaterally. Findings are concerning for an 
infectious process. 
  
 
Brief Hospital Course:
Ms. ___ is a ___ woman with hereditary coproporphyria, 
fibromyalgia, and DM2; transferred from ___ for 
derm eval of ___ days of a painful, raised, red rash over her 
trunk, arms, legs, and forehead. Rash has overall improved. 

She was seen by derm and biopsy was done however from derm 
perspective, no reasons for her to remain in the hospital as 
rash was improving. 

Ms ___ is very anxious to go home today as she is starting a 
new job tomorrow. her rash is resolving and she is feeling much 
much better in terms of her fatigue and headache. She has been 
ambulating around the hospital without any issues. She states 
she is very ready to get back to work tomorrow. I spoke with 
derm, hemo/onc fellows, as well as PCPs office to coordinate 
follow up plan for pending porphobilinogen level. The patient 
was counseled extensively if any worsening of her headache, 
rash, or any other of her symptoms whatsoever, to come back to 
the hospital for evaluation.

Rest of hospital course/plan are outlined below by issue. 

#Rash:
#Hereditary Coproporphyria: 
#Tinea Pedis:
DDx per derm in the ED: acute Hereditary corporphyria attack vs 
pseudo porphyria cutanea tarda vs id reaction (from external 
agent vs tinea pedis). Much less likely bullous pemphigoid or 
other phototoxic reaction or contact dermatitis
-agree with derm, syndrome NOT consistent with SJS/TEN
-ketoconazole for the bilateral feet for tinea pedis
-unclear neuro symptoms that can be reflection of an acute 
porphyria attack
-serum PBGs sent (may not return prior to discharge)
-clobetasol 0.05% BID to affected areas of rash on extremities 
to evaluate for symptomatic relief (per derm)(Avoid face, groin 
and armpits. Leave an area on the upper arm untreated for 
possible biopsy and DIF in the AM.)
-gabapentin, Tylenol, tramadol for symptom relief
-spoke with derm fellow after biopsy was taken and agreed that 
rash was not consistent with zoster. Most likely porphyria based 
on distribution in mostly photosensitive areas but ddx including 
id reaction still possible. biopsy was done mostly in case this 
happens again in the context of management of her know 
porphyria. 
-I spoke with our heme/onc ___, MD ___ Resident ___ 
(Partners ___ prior to discharge regarding the case and 
scheduling her for a follow up appointment possibly in their 
clinic next week, to help follow up the results of her urine 
porphobilinogen level. Regardless of the level, she is 
clinically much improved and without signficiant neurologic 
symptoms at this time. Her rash is improving. I advised her to 
stay out of the sun and avoid triggers.  Derm recommended 
triamcinolone ointment x 2 weeks BID which I prescribed. 

#CXR showing reticular opacities vs atelectasis in the bases: 
with mild dry cough. Suspect maybe a resolving viral respiratory 
infection (bronchial thickening also noted).  In the setting of 
uncharacterized rash and no clear bacterial infection; decided 
not to cloud the picture with the addition of antibiotics at 
this time. 
-Incentive spirometry 
-continue to monitor

#DM: pt states she is not on long acting insulin "because it 
drops my blood sugar way too low". continuing Humalog sliding 
scale qAC/hs. held metformin while inpatient, to resume as 
outpatient.

#Transitional Issues: 
-___ with heme/onc for management of porphyria. ___ to 
make an appointment as soon as possible (later this week) to 
follow up pending urine porphobilinogen test.
-dermatology ___ (with CHA or at ___. Our dermatologist will 
contact the patient with the results of the biopsy (confirmed 
with ___, derm fellow) and arrange necessary follow up based on 
results.
-needs PCP ___ within 1 week after discharge to follow up 
porphobilinogen results.
-Rx: triamcinolone 0.1% BID x 2 weeks per derm recommendations

#Contacts: 
-___: called her PCPs office for Dr ___. and I 
spoke with Dr. ___ MD) and reviewed the follow 
up plan including need for ___ appointment early next week, also 
to follow up porphobilinogen level and discuss management with 
hematology. Also need for derm and potentially also a hematology 
referral. 
-PCP notified via letter as well 

spent > 30 minutes seeing the patient and organizing her 
discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 1250 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin
4. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
RX *triamcinolone acetonide 0.1 % apply over affected areas two 
times a day Refills:*0 
2.  Insulin SC 
      Sliding Scale
Insulin SC Sliding Scale using HUM Insulin 
3.  Calcium Carbonate 1250 mg PO DAILY  
4.  Gabapentin 300 mg PO TID  
5.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hereditary coproporphyria
rash of unclear etiology 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
D/C Instructions: 

 

Dear Ms. ___, 
 You were hospitalized at ___. 

 

Why were you in the hospital?
 =======================
 -rash
 -porphyria

 

 

What did we do for you?
 =======================
 - you were seen by one of our dermatologists and a biopsy was 
taken. 
 - your rash improved and we took a urine test for porphyria

 

 

What do you need to do?
 =======================
 - use your skin ointment as prescribed for the lesions
 - be sure to follow up with dermatology, hematology, and your 
primary care provider (PCP) as below.

 

 

 Please follow up with your primary care doctor.

 

It was a pleasure taking care of you. We wish you the best!

Sincerely,
 Your ___ Medicine Team 

 
Followup Instructions:
___